### PR TITLE
fix(Wikipedia/WallSunSun): restrict `D` to fundamental discriminants

### PR DESCRIPTION
**Pull request by YaelDillies**
Not all integers appear as discriminants of a quadratic field.

### CODE REVIEW

File: FormalConjectures/Wikipedia/WallSunSun.lean [hunk 1]
```diff
@@ -40,15 +40,26 @@ $p$-th Lucas number. It is conjectured that there are infinitely many Wall-Sun-S
 theorem infinite_isWallSunSunPrime : {p : ℕ | IsWallSunSunPrime p}.Infinite := by
   sorry
 
+/-- Fundamental discriminants are those integers `D` that appear as discriminants of quadratic
+fields.
```
Comment (eric-wieser) [inline FormalConjectures/Wikipedia/WallSunSun.lean]: Does mathlib not have the notion of a discriminant of a quadratic field?

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/WallSunSun.lean]: Sure it does, but the notion of fundamental discriminant can be described very elementarily. That it corresponds to discriminants of quadratic fields is definitely something we should state, if that's what you mean

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/WallSunSun.lean]: This could be a nice `category test` or `category undergradute` statement!

File: FormalConjecturesForMathlib/NumberTheory/NumberField/Quadratic.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+open Module NumberField
+
+namespace QuadraticAlgebra
+variable {d : ℕ}
+
+lemma discr_rat_of_modEq_one (hd₁ : d ≠ 1) (hd : Squarefree d) (hd₄ : d ≡ 1 [ZMOD 4]) :
+    discr (QuadraticAlgebra ℚ d 0) = d := sorry
+
+lemma discr_rat_of_not_modEq_one (hd : Squarefree d) (hd₄ : ¬ d ≡ 1 [ZMOD 4]) :
+    discr (QuadraticAlgebra ℚ d 0) = 4 * d := sorry
```
Comment (eric-wieser) [inline FormalConjecturesForMathlib/NumberTheory/NumberField/Quadratic.lean]: I don't think we allow `sorry` in `ForMathlib`, do we?

Comment (YaelDillies) [reply FormalConjecturesForMathlib/NumberTheory/NumberField/Quadratic.lean]: Yes, I have moved it to the Wall-Sun-Sun conjecture file, although that too is unsatisfactory

**Comment by YaelDillies** [comment]
I could fill in more of the sorries using the material from https://github.com/sacerdot/QuadraticIntegers and https://github.com/leanprover-community/mathlib4/pull/36387. Let me know if you think it is worth it.

File: FormalConjectures/Wikipedia/WallSunSun.lean [hunk 3]
```diff
@@ -22,7 +21,108 @@ import FormalConjectures.Util.ProblemImports
...
+/-- The discriminant of `ℚ[√d]` for `d ≥ 2` squarefree congruent to 1 mod 4 is `d`. -/
+@[category textbook, AMS 11, simp]
+lemma discr_rat_of_modEq_one (hd₄ : d ≡ 1 [ZMOD 4]) : discr (QuadraticAlgebra ℚ d 0) = d := by
+  sorry
+
+/-- The discriminant of `ℚ[√d]` for `d ≥ 2` squarefree not congruent to 1 mod 4 is `4 * d`. -/
+@[category textbook, AMS 11, simp]
+lemma discr_rat_of_not_modEq_one (hd₄ : ¬ d ≡ 1 [ZMOD 4]) :
+    discr (QuadraticAlgebra ℚ d 0) = 4 * d := by
+  sorry
```
Comment (eric-wieser) [inline FormalConjectures/Wikipedia/WallSunSun.lean:39]: I don't think these should be `simp`, that just poisons agents that try to use the `simp` tactic.

**Comment by eric-wieser** [comment]
I don't think it's worth backporting, but it's probably worth a link to the results existing elsewhere.

File: FormalConjectures/Wikipedia/WallSunSun.lean (hunk 3 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/WallSunSun.lean:39]: How so? The LHS is very specific

**Comment by YaelDillies** [comment]
I don't think the results exist elsewhere yet. Riccardo's ItaLean project and Frankie's PRs get us most of the way there, but there is still some amount of missing glue.

**Review by Paul-Lez — APPROVED** [review]
